US07378418B2
273C. Preparation of 3,5-Dichloro-4-(4-chlorophenyl)pyridazine
A suspension of 5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one, (6.8 g, 28.2 mmol) in POCl3 (14 mL) was heated at 100° C. for 1 h. After this time, the reaction mixture was cooled to RT The reaction mixture was then concentrated under reduced pressure. The residue was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were washed with saturated aqueous NaHCO3 and saturated aqueous NaCl. The organic layer was dried (Na2SO4), filtered and concentrated to give the title compound, 3,5-dichloro-4-(4-chlorophenyl)pyridazine as an off-white solid (6.9 g, 96%). LC/MS (method A): RT=3.20 min, (M+H)+=259.

reactant | 5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one | 28.2 mmol, 6.8 g | ClC1=C(C(NN=C1)=O)C1=CC=C(C=C1)Cl | C10H6Cl2N2O
reactant | POCl3 | 14 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 3,5-dichloro-4-(4-chlorophenyl)pyridazine | 6.9 g, 96% | ClC=1N=NC=C(C1C1=CC=C(C=C1)Cl)Cl | C10H5Cl3N2
